US04895862
Step (1) Preparation of N'-Hydroxy-2-(3,4-dimethylphenyl)ethanimidamide
3,4-Dimethylphenylacetonitrile (10 g, 0.069 mol) was added to a mixture of hydroxylamine hydrochloride (9.57 g, 0.14 mol), methanol (100 mL) and 25% sodium methoxide/methanol (31.5 mL, 0.14 mol) at room temperature. After stirring for 16 hours at room temperature, the reaction mixture was concentrated in vacuo. The resultant oil was partitioned between methylene chloride and water. The organic phase was separated, washed with water, dried over magnesium sulfate and concentrated in vacuo to yield the desired product (11.4 g, 93%) as a white solid. Recrystallization from toluene afforded an analytical sample m.p. 59°-60° C.

reactant | 3,4-Dimethylphenylacetonitrile | 0.069 mol, 10 g | CC=1C=C(C=CC1C)CC#N | C10H11N
reactant | hydroxylamine hydrochloride | 0.14 mol, 9.57 g | Cl.NO
reactant | sodium methoxide methanol | 0.14 mol, 31.5 mL | C[O-].[Na+].CO
solvent | methanol | 100 mL | CO | CH4O
product | N'-Hydroxy-2-(3,4-dimethylphenyl)ethanimidamide | 11.4 g, 93% | ON=C(CC1=CC(=C(C=C1)C)C)N | C10H14N2O
